US04423241
N-(2,6-dichlorobenzylideneaminooxyacetyl)morpholine
N-(2,6-dichlorobenzylideneaminooxyacetyl)alanine ethylester of N-(2,6-dichlorobenzylideneaminooxyacetyl)alanine

reactant | N-(2,6-dichlorobenzylideneaminooxyacetyl)alanine ethylester | C(C)OC([C@@H](NC(C(Cl)ON=CC1=CC=CC=C1Cl)=O)C)=O | C14H16Cl2N2O4
reactant | N-(2,6-dichlorobenzylideneaminooxyacetyl)alanine | ClC(C(=O)N[C@@H](C)C(=O)O)ON=CC1=CC=CC=C1Cl | C12H12Cl2N2O4
product | N-(2,6-dichlorobenzylideneaminooxyacetyl)morpholine | ClC(C(=O)N1CCOCC1)ON=CC1=CC=CC=C1Cl | C13H14Cl2N2O3
